US06150379
Potassium carbonate (6.1 g, 43.9 mmol) and methyl iodide (21 mL, 338 mmol) were added sequentially to a solution comprising 6-cyanopyridine-3-carboxylic acid (5 g, 33.8 mmol) in acetone (300 mL). The mixture was heated at reflux for 15 hours and concentrated under reduced pressure. The residue was partioned between ether and saturated sodium bicarbonate. The organic layer was washed with water, dried (MgSO4), filtered and concentrated under reduced pressure to provide methyl 6-cyanopyridine-3-carboxylate (4.4 g, 27.1 mmol) as a tan solid. 1H-NMR (300 Mhz, DMSO-d6): 3.9 (s, 3H), 8.2 (d, 1H, J=7.5 Hz), 8.5 (d, 1H, J=7.5 Hz), 9.2 (s, 1H).

reactant | Potassium carbonate | 43.9 mmol, 6.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 338 mmol, 21 mL | CI | CH3I
reactant | 6-cyanopyridine-3-carboxylic acid | 33.8 mmol, 5 g | C(#N)C1=CC=C(C=N1)C(=O)O | C7H4N2O2
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | methyl 6-cyanopyridine-3-carboxylate | 27.1 mmol, 4.4 g | C(#N)C1=CC=C(C=N1)C(=O)OC | C8H6N2O2
